US04032535
Preparation of 6-(2-Chlorophenyl)-1-methyl-8-nitroso-4H-s-triazolo[4,3-a][1,4]-benzodiazepine
Manganese dioxide, 20 g, was added to a suspension of 2 g of 6-(2-chlorophenyl)-8-hydroxyamino-1-methyl-4H-s-triazolo-[4,3-a][1,4]benzodiazepine in 1 l of methylene chloride. After stirring for 3 hr at room temperature the manganese dioxide was separated by filtration over celite. The filtrate was evaporated and the residue was crystallized from methylene chloride/ether to yield the above-named product, with mp. 190°-195° dec. For analysis it was recrystallized from ethanol/ether.

reactant | 6-(2-chlorophenyl)-8-hydroxyamino-1-methyl-4H-s-triazolo-[4,3-a][1,4]benzodiazepine | 2 g | ClC1=C(C=CC=C1)C1=NCC=2N(C3=C1C=C(C=C3)NO)C(=NN2)C | C17H14ClN5O
solvent | methylene chloride | 1 l | C(Cl)Cl | CH2Cl2
catalyst | Manganese dioxide | [O-2].[O-2].[Mn+4]
product | 6-(2-Chlorophenyl)-1-methyl-8-nitroso-4H-s-triazolo[4,3-a][1,4]-benzodiazepine | ClC1=C(C=CC=C1)C1=NCC=2N(C3=C1C=C(C=C3)N=O)C(=NN2)C | C17H12ClN5O
